US09216182B2
b) 6-(4-aminopiperidin-1-yl)nicotinamide hydrochloride
To a stirred solution of HCl/EtOAc (9 ml, 3N) was added tert-butyl 1-(5-carbamoylpyridin-2-yl)piperidin-4-ylcarbamate (400 mg) and the mixture was stirred at room temperature for 4 h. The solid was collected by filtration and washed with EtOAc to give a white solid (300 mg, 94%). [LCMS RtA=0.85 min, [M+H]+=221.1].

reactant | HCl EtOAc | 3N, 9 ml | Cl.CCOC(=O)C
reactant | tert-butyl 1-(5-carbamoylpyridin-2-yl)piperidin-4-ylcarbamate | 400 mg | C(N)(=O)C=1C=CC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H24N4O3
product | 6-(4-aminopiperidin-1-yl)nicotinamide hydrochloride | 300 mg, 94% | Cl.NC1CCN(CC1)C1=NC=C(C(=O)N)C=C1 | InChI=1S/C11H16N4O.ClH/c12-9-3-5-15(6-4-9)10-2-1-8(7-14-10)11(13)16;/h1-2,7,9H,3-6,12H2,(H2,13,16);1H
